US08008298B2
4-(4-{3-[7-(1-Methyl-cyclohexanecarbonyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-piperazine-1-carbonyl)-piperidine-1-carboxylic acid tert-butyl ester was prepared starting from (1-methyl-cyclohexyl)-[2-(3-piperazin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone and piperidine-1,4-dicarboxylic acid mono-tert-butyl ester following general procedures as described in these Examples. M+H=615.

reactant | (1-methyl-cyclohexyl)-[2-(3-piperazin-1-yl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | CC1(CCCCC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=CC=C2)N2CCNCC2 | C24H29N5O
reactant | piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
product | 4-(4-{3-[7-(1-Methyl-cyclohexanecarbonyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-phenyl}-piperazine-1-carbonyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)N1CCN(CC1)C1=CC(=CC=C1)C=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C35H46N6O4
